US07105671B2
A solution of freshly prepared lithium diisopropylamide (23 mL of a 0.31 M stock solution, 7.13 mmol) cooled to −78° C. was treated with (3,4-dichloro-phenyl)-acetic acid (696 mg, 3.39 mmol) in tetrahydrofuran/1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (8.5 mL, 3:1). The resulting solution was stirred at −78° C. for 45 min. At this time, the reaction was treated with a solution of 2-bromomethyl-tetrahydro-furan (672 mg, 4.07 mmol) in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (2 mL). The reaction mixture was stirred at −78° C. for 2 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 18 h. The reaction mixture was then quenched by the dropwise addition of a saturated aqueous ammonium chloride solution. The excess solvent was removed in vacuo. The residue was diluted with water (50 mL) and was treated with a 1N aqueous hydrochloric acid solution until the solution was acidic. The resulting solution was extracted into ethyl acetate (3×50 mL). The organics were washed with a saturated aqueous lithium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 50/50 hexanes/ethyl acetate with glacial acetic acid) afforded 2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-propionic acid (692.3 mg, 70.8%) as a white solid: mp 100–102° C.; FAB-HRMS m/e calcd for C13H14Cl2O3 (M+H)+ 289.0399, found 289.0404.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (3,4-dichloro-phenyl)-acetic acid | 3.39 mmol, 696 mg | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | 2-bromomethyl-tetrahydro-furan | 4.07 mmol, 672 mg | BrCC1OCCC1 | C5H9BrO
solvent | tetrahydrofuran 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 8.5 mL | O1CCCC1.CN1C(N(CCC1)C)=O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 2 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-propionic acid | 692.3 mg, 70.8% | ClC=1C=C(C=CC1Cl)C(C(=O)O)CC1OCCC1 | C13H14Cl2O3
